US04499097
1-[2-(6-Chloro-3-pyridinyl)-5-methyl-1H-imidazol-4-yl]ethanone
A mixture of 4.5 g (0.035 mole) of 2,3,4-pentanetrione 3-oxime and 5.3 g (0.037 mole) of 6-chloro-3-pyridylmethylamine in 100 ml of acetonitrile was stirred at the reflux temperature for 18 hours. The reacted mixture was cooled at -10° C. with formation of a precipitate. The precipitate was washed, dried and recrystallized as for Example 24 to give 2.6 g of the desired product as a pale yellow solid, mp 239°-240° C.

reactant | 2,3,4-pentanetrione 3-oxime | 0.035 mole, 4.5 g | CC(C(C(C)=O)=NO)=O | C5H7NO3
reactant | 6-chloro-3-pyridylmethylamine | 0.037 mole, 5.3 g | ClC1=CC=C(C=N1)CN | C6H7ClN2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-[2-(6-Chloro-3-pyridinyl)-5-methyl-1H-imidazol-4-yl]ethanone | 2.6 g | ClC1=CC=C(C=N1)C=1NC(=C(N1)C(C)=O)C | C11H10ClN3O
